US07812028B2
e) 6-(4-Butylcarbamoyl-butoxy)-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
5-[3-(4-Chloro-phenyl)-5-((1R,2R)-2-hydroxy-cyclohexylcarbamoyl)-pyridin-2-yloxy]-pentanoic acid (20 mg) was dissolved in DMF (1 mL). To the solution was added TBTU (16 mg), N,N-diisopropylethyl amine (0.038 mL, 42) and (N)-butylamine (0.005 mL). The reaction mixture was stirred for 16 h at room temperature. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica (dichloromethane/methanol gradient) to yield 21 mg of the title compound as a white solid, MS (ISP) 502.1, 504.1 (M+H)+.

reactant | 5-[3-(4-Chloro-phenyl)-5-((1R,2R)-2-hydroxy-cyclohexylcarbamoyl)-pyridin-2-yloxy]-pentanoic acid | 20 mg | ClC1=CC=C(C=C1)C=1C(=NC=C(C1)C(N[C@H]1[C@@H](CCCC1)O)=O)OCCCCC(=O)O | C23H27ClN2O5
reactant | TBTU | 16 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 0.038 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-(4-Butylcarbamoyl-butoxy)-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | 21 mg | C(CCC)NC(=O)CCCCOC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)Cl | C27H36ClN3O4
